US08198296B2
To the diethyl 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7,7-dicarboxylate (10.5 g, 29.5 mmol) was added water (25 mL) and concentrated (12 N) hydrochloric acid (75 mL). The mixture was heated at reflux for 8 h. The volatiles were evaporated, and the residue was dissolved in water (10 mL) and the pH of the solution was adjusted to pH 8 with 10% aqueous sodium bicarbonate. Di-tert-butyl dicarbonate (8.5 g, 39 mmol) in tert-butanol (60 mL) was added and the reaction was stirred overnight at ambient temperature. Ethyl acetate (100 mL) was added to the reaction and the pH of the solution was adjusted to pH 3 with 2 M aqueous hydrochloric acid. The aqueous layer was extracted with ethyl acetate (200 mL). The organic layer was washed with water (2×200 mL) and brine (100 mL), dried (anhydrous sodium sulfate), concentrated (rotary evaporation), and purified by silica gel column chromatography to give 5.1 g of 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxylic acid, as a white solid (1H NMR (CDCl3, 300 MHz): δ 3.59-3.40 (m, 2H), 3.36-3.05 (m, 2H), 3.02-2.76 (m, 2H), 2.65-2.60 (m, 1H), 2.24-2.04 (m, 2H), 1.85-1.66 (m, 2H), 1.46 (s, 9H); MS (m/z): 256 (M+1), 200 (M+1-56)).

reactant | diethyl 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7,7-dicarboxylate | 29.5 mmol, 10.5 g | C(C)(C)(C)OC(=O)N1CC2CC(CC2C1)(C(=O)OCC)C(=O)OCC | C18H29NO6
reactant | water | 25 mL | O | H2O
reactant | Di-tert-butyl dicarbonate | 39 mmol, 8.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tert-butanol | 60 mL | C(C)(C)(C)O | C4H10O
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxylic acid | 5.1 g | C(C)(C)(C)OC(=O)N1CC2CC(CC2C1)C(=O)O | C13H21NO4
